US04245082
A mixture of 100 g of m-anisic acid (0.658 mole), 250 g thionyl chloride (2.10 mole), and 5 ml dimethylformamide was heated under reflux in a round-bottom flask with desiccant in the top of the condenser for exclusion of atmospheric moisture. Excess thionyl chloride was distilled from the product using a rotary film-evaporator at about 200 torr (26.6 kPa). The m-anisoyl chloride was then isolated by fractional distillation through a 25 cm Vigreux column at 109° C./12 torr (1.6 kPa). Yield was 90 g (0.528 mole), i.e., about 80%.

reactant | m-anisic acid | 0.658 mole, 100 g | C(C1=CC(=CC=C1)OC)(=O)O | C8H8O3
reactant | thionyl chloride | 2.10 mole, 250 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
